US03961055
2-Methoxy-6-methylsulphonylphenothiazine (m.p. 204°-206°C.; 16.05 g.) is prepared by reduction of 2-methoxy-6-methylsulphonyl-9-oxophenothiazine (47 g.) by means of zinc powder (28 g.) in dimethylformamide (175 cc.), acetic acid (73 cc.) and distilled water (73 cc.).

reactant | 2-methoxy-6-methylsulphonyl-9-oxophenothiazine | 47 g | COC1=CC=2N=C3C(C=CC(=C3SC2C=C1)S(=O)(=O)C)=O | C14H11NO4S2
solvent | dimethylformamide | 175 cc | CN(C=O)C | C3H7NO
solvent | acetic acid | 73 cc | C(C)(=O)O | C2H4O2
catalyst | zinc | 28 g | [Zn] | Zn
product | 2-Methoxy-6-methylsulphonylphenothiazine | 16.05 g | COC1=CC=2NC3=CC=CC(=C3SC2C=C1)S(=O)(=O)C | C14H13NO3S2
